US06204264B1
3-(2-Heptadecyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-propanamine (Compound 7)
Triethylamine (0.62 ml) was added to a solution containing N-[3-(dimethylamino)propyl]-1,2-benzenediamine (0.78 g) in chloroform (4 ml) and then stearoyl chloride (1.22 g) was added thereto while being cooled with ice. After being stirred for 2 hours at room temperature, the reaction mixture was diluted with chloroform, washed with saturated sodium hydrogencarbonate aqueous solution and water successively, dried over sodium sulfate anhydride, and concentrated. Concentrated hydrochloric acid (3.33 ml) was added to a solution containing the residue (1.93 g) in n ethanol (20 ml). After being stirred for 5 hours at 90° C., the reaction mixture was concentrated. The residue, with ethyl acetate added thereto, was washed with 1N sodium hydroxide aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and concentrated. The residue (1.73 g) was purified by silica gel column chromatography (silica gel 50 g, chloroform:methanol=50:1), thereby yielding the entitled compound (1.53 g) as pale brown wax.

reactant | Triethylamine | 0.62 ml | C(C)N(CC)CC | C6H15N
reactant | N-[3-(dimethylamino)propyl]-1,2-benzenediamine | 0.78 g | CN(CCCNC=1C(=CC=CC1)N)C | C11H19N3
reactant | stearoyl chloride | 1.22 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-Heptadecyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-propanamine | 1.53 g | C(CCCCCCCCCCCCCCCC)C1=NC2=C(N1CCCN(C)C)C=CC=C2 | C29H51N3
